US06043242
b) 2-[(3-Chloro-2-hydroxymethyl-pyridin-4-yl)-methyl-amino]-ethanol
N-Chlorosuccinimide (25 g, 187 mmol) is added in 5 portions to a solution of 2-[(2-hydroxymethyl-pyridin-4-yl)-methyl-amino]-ethanol (30 g of the crude product isolated in step a), 140 mmol) in acetic acid (170 ml) over a period of 3 h. Stirring is continued for I h and the solvent is evaporated in vacuo. The residue is treated with 6N sodium hydroxide solution and extracted with ethyl acetate. The combined organic extracts are washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue is chromatographed (silica, toluene/dioxane 2:1) to give the title compound as a brown solid. M.p. 49-53° C.

reactant | N-Chlorosuccinimide | 187 mmol, 25 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2-[(2-hydroxymethyl-pyridin-4-yl)-methyl-amino]-ethanol | OCC1=NC=CC(=C1)N(CCO)C | C9H14N2O2
solvent | acetic acid | 170 ml | C(C)(=O)O | C2H4O2
product | 2-[(3-Chloro-2-hydroxymethyl-pyridin-4-yl)-methyl-amino]-ethanol | ClC=1C(=NC=CC1N(CCO)C)CO | C9H13ClN2O2
